US09233946B2
5-(2-Methyl-1,3-thiazol-4-yl)-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting from 5-(2-methylthiazol-4-yl)thiophene-2-sulphonylchloride (15 mg, 0.055 mmol) and [3-(1H-tetrazol-5-yl)phenyl]amine (8 mg, 0.05 mmol) giving 5.2 mg (26%) of the title compound. MS (ESI+) calcd for C15H12N6O2S3 404.0184, found 404.0182.

reactant | 5-(2-methylthiazol-4-yl)thiophene-2-sulphonylchloride | 0.055 mmol, 15 mg | CC=1SC=C(N1)C1=CC=C(S1)S(=O)(=O)Cl | C8H6ClNO2S3
reactant | [3-(1H-tetrazol-5-yl)phenyl]amine | 0.05 mmol, 8 mg | N1N=NN=C1C=1C=C(C=CC1)N | C7H7N5
product | 5-(2-Methyl-1,3-thiazol-4-yl)-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide | 5.2 mg, 26% | CC=1SC=C(N1)C1=CC=C(S1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C15H12N6O2S3
